US08471005B2
3-{3-[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one was prepared from 7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as a yellow foam (75 mg, 50%). LCMS (m/e) 491 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.76 (s, 1H), 8.38 (d, 2H, J=8.4 Hz), 8.05 (d, 2H, J=8.4 Hz), 7.68 (s, 1H), 7.51 (d, 1H, J=8.2 Hz) 7.37-7.29 (m, 1H), 7.11 (d, 1H, J=7.6 Hz), 7.08 (d, 1H, J=4.8 Hz), 6.91 (s, 1H), 6.86 (d, 1H, J=4.8 Hz), 3.75-3.65 (m, 1H), 3.66 (s, 1H), 3.25-3.18 (m, 1H), 3.10 (s, 3H), 3.08-3.00 (m, 1H), 2.99 (s, 3H), 2.77-2.67 (m, 1H), 2.18 (s, 3H).

reactant | 7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O3S
reactant | 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC=1C=C(C=CC1)C1C(N(CCN1C)C)=O | C12H17N3O
product | 3-{3-[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)C2C(N(CCN2C)C)=O | C25H26N6O3S
